US08222248B2
A 2 M solution of AlMe3 in toluene (0.74 mL, 1.48 mmol) was added to a flask charged with dry toluene (6 mL) at 0° C. under N2. In one proportion quinolin-2-ylamine (0.213 g, 1.48 mmol) was added and the mixture was allow to stir for 50 min. The reaction was allowed to warm to ambient temperature over 15 min then a suspension of 2-(2,6-dichloro-4-morpholin-4-yl-phenyl)-1H-indole-6-carboxylic acid methyl ester (0.500 g, 1.23 mmol) in toluene was slowly added to the mixture at 0° C. Upon completing the addition the mixture was heated at 100° C. After 20 h an additional portion of AlMe3/quinolin-2-ylamine solution (0.438 mmol) was added and heating was continued for an additional 3 h. The mixture was allowed to cool to ambient temperature and was concentrated under reduced pressure. The residue was partitioned between EtOAc (70 mL) and 1 N HCl (30 mL) and allowed to stir for 1 h. The resulting precipitate was filtered and dried under reduced pressure to afford 2-(2,6-dichloro-4-morpholin-4-yl-phenyl)-1H-indole-6-carboxylic acid quinolin-2-ylamide as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 11.75 (s, 1H), 11.26 (s, broad, 1H), 8.50 (d, J=8.97 Hz, 1H), 8.34 (d, J=8.97 Hz, 1H), 8.20 (s, 1H), 8.00 (d, J=8.21 Hz, 1H), 7.97 (d, J=8.46 Hz, 1H), 7.76-7.82 (m, 2H), 7.68 (d, J=8.34 Hz, 1H), 7.57 (t, J=7.45 Hz, 1H), 7.17 (s, 2H), 6.54 (d, J=1.77 Hz, 1H), 3.71-3.77 (m, 4H), 3.24-3.32 (m, 4H). MS (m/z) 517.1 (M+1).

reactant | AlMe3 | C[Al](C)C
reactant | quinolin-2-ylamine | 1.48 mmol, 0.213 g | N1=C(C=CC2=CC=CC=C12)N | C9H8N2
reactant | 2-(2,6-dichloro-4-morpholin-4-yl-phenyl)-1H-indole-6-carboxylic acid methyl ester | 1.23 mmol, 0.500 g | COC(=O)C1=CC=C2C=C(NC2=C1)C1=C(C=C(C=C1Cl)N1CCOCC1)Cl | C20H18Cl2N2O3
reactant | AlMe3 quinolin-2-ylamine | 0.438 mmol | C[Al](C)C.N1=C(C=CC2=CC=CC=C12)N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.48 mmol, 0.74 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2,6-dichloro-4-morpholin-4-yl-phenyl)-1H-indole-6-carboxylic acid quinolin-2-ylamide | N1=C(C=CC2=CC=CC=C12)NC(=O)C1=CC=C2C=C(NC2=C1)C1=C(C=C(C=C1Cl)N1CCOCC1)Cl | C28H22Cl2N4O2
